US04337201
(cis)-1-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-4-(phenylthio)-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester
To a solution of (cis)-1-[[ethoxy(4-phenylbutyl)phosphinyl]-acetyl]-4-(phenylthio)-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester (3 g) in dichloromethane (30 ml) is added bromotrimethylsilane (1.2 g). The mixture is stirred at room temperature for 16 hours. After the addition of water (15 ml), saturated sodium bicarbonate (25 ml) is added, followed by water (500 ml) to effect solution. The aqueous alkaline solution is washed with ether and acidified to a pH of 3 with concentrated hydrochloric acid. The oil that separates from solution is extracted into ethyl acetate, washed with brine, and dried (MgSO4). The solvent is removed in vacuo to give a residue of 2.5 g which is chromatographed on silica gel (120 g) eluting with dichloromethane/methanol/acetic acid (19:1:1) to give the product (1.8 g) as a glass-like solid.

reactant | (cis)-1-[[ethoxy(4-phenylbutyl)phosphinyl]-acetyl]-4-(phenylthio)-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester | 3 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1[C@H](C(=O)OCOC(C(C)(C)C)=O)C[C@@H](C1)SC1=CC=CC=C1 | C31H42NO7PS
reactant | bromotrimethylsilane | 1.2 g | Br[Si](C)(C)C | C3H9BrSi
reactant | water | 15 ml | O | H2O
reactant | sodium bicarbonate | 25 ml | C([O-])(O)=O.[Na+]
reactant | water | 500 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (cis)-1-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-4-(phenylthio)-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester | 1.8 g | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1[C@H](C(=O)OCOC(C(C)(C)C)=O)C[C@@H](C1)SC1=CC=CC=C1 | C29H38NO7PS
